US06465455B1
N-[2-chloro-5-(4-cyanobenzamido)phenyl]-3-fluoro-4-(4-methylpiperazin-1-yl)benzamide
Phosphoryl chloride (0.1 I ml) was added dropwise to a stirred mixture of N-(3-amino-4-chlorophenyl)-4-cyanobenzamide (0.2 g), 3-fluoro-4-(4-methylpiperazin-1-yl)benzoic acid (0.26 g) and pyridine (2 ml) which had been cooled to −10° C. The reaction mixture was allowed to warm to ambient temperature and was stirred for 16 hours. The mixture was diluted with water and was stirred overnight. The precipitate was isolated, washed with diethyl ether and dried under vacuum at 55° C. There was thus obtained the title compound as a solid (0.212 g);

reactant | Phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-(3-amino-4-chlorophenyl)-4-cyanobenzamide | 0.2 g | NC=1C=C(C=CC1Cl)NC(C1=CC=C(C=C1)C#N)=O | C14H10ClN3O
reactant | 3-fluoro-4-(4-methylpiperazin-1-yl)benzoic acid | 0.26 g | FC=1C=C(C(=O)O)C=CC1N1CCN(CC1)C | C12H15FN2O2
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-[2-chloro-5-(4-cyanobenzamido)phenyl]-3-fluoro-4-(4-methylpiperazin-1-yl)benzamide | 0.212 g | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C#N)=O)NC(C1=CC(=C(C=C1)N1CCN(CC1)C)F)=O | C26H23ClFN5O2
